Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
R hip pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ male w/ dementia, HTN, HLD who presents with the above
fracture s/p mechanical fall in his assisted living facility. He
normally walks with a walker and is active within his assisted
living facility. He was brought from an OSH w/ the above
fracture. 
 
Past Medical History:
PMH/PSH: 
HTN
HLD
CABG (___)
L ___ ___, ___                                      


 
Social History:
___
Family History:
NA
 
Physical Exam:
General: Well-appearing male in no acute distress.

Right lower extremity:
- Skin intact
- No deformity, edema, ecchymosis, erythema, induration
- Soft, non-tender thigh and leg
- pain w/ log roll/ hip ROM
- Fires ___
- SILT S/S/SP/DP/T distributions
- 1+ ___ pulses, WWP
 
Pertinent Results:
___ 06:00AM BLOOD WBC-8.4 RBC-3.98* Hgb-11.6* Hct-36.0* 
MCV-91 MCH-29.1 MCHC-32.2 RDW-13.2 RDWSD-43.8 Plt ___
___ 11:30AM BLOOD WBC-9.9 RBC-4.01* Hgb-11.8* Hct-36.5* 
MCV-91 MCH-29.4 MCHC-32.3 RDW-13.2 RDWSD-44.5 Plt ___
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have R acetabular fracture and was admitted to the orthopedic 
surgery service. After team rounds, the decision was made his 
acetabular fracture to be treated non-operatively. He remained 
in house for physical therapy and rehab placement. The patient 
was given regular diet and oral medications. The patient was 
given anticoagulation per routine. The patient's home 
medications were continued throughout this hospitalization. The 
patient worked with ___ who determined that discharge to rehab 
was appropriate. The ___ hospital course was otherwise 
unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
touch down weight bearing in the right extremity, and will be 
discharged on lovenox for DVT prophylaxis. The patient will 
follow up with ___, NP per routine. A thorough 
discussion was had with the patient regarding the diagnosis and 
expected post-discharge course including reasons to call the 
office or return to the hospital, and all questions were 
answered. The patient was also given written instructions 
concerning precautionary instructions and the appropriate 
follow-up care. The patient expressed readiness for discharge.

 
Medications on Admission:
donepezil 10 mg QD
sertraline 50 mg QD
ASA 81 QD
Immodium QOD
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Docusate Sodium 100 mg PO BID  
3.  Enoxaparin Sodium 30 mg SC Q24H 
RX *enoxaparin 30 mg/0.3 mL 1 syringe subcutaneous nightly Disp 
#*28 Syringe Refills:*0 
4.  OxyCODONE (Immediate Release) 2.5-5 mg PO Q4H:PRN Pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four to six 
hours Disp #*20 Tablet Refills:*0 
5.  Senna 8.6 mg PO BID  
6.  Aspirin 81 mg PO DAILY  
7.  Donepezil 10 mg PO QHS  
8.  Sertraline 50 mg PO DAILY  
9.  TraZODone 50 mg PO QHS:PRN Insomnia  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
R acetabular fracture

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Discharge Instructions:

INSTRUCTIONS AFTER ORTHOPAEDIC SURGERY:

- You were in the hospital for your acetabular (pelvic) 
fracture. It is normal to feel tired or "washed out" after 
getting injured, and this feeling should improve over the first 
few days to week. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
- touch down weight bearing right lower extremity

MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:
- Please take lovenox daily for 4 weeks

DANGER SIGNS:
Please call your PCP or surgeon's office and/or return to the 
emergency department if you experience any of the following:
- Increasing pain that is not controlled with pain medications
- Increasing redness, swelling, drainage, or other concerning 
changes in your incision
- Persistent or increasing numbness, tingling, or loss of 
sensation
- Fever > 101.4
- Shaking chills
- Chest pain
- Shortness of breath
- Nausea or vomiting with an inability to keep food, liquid, 
medications down
- Any other medical concerns

THIS PATIENT IS EXPECTED TO REQUIRE <30 DAYS OF REHAB

FOLLOW UP:
 You will have follow up with ___, NP in the 
Orthopaedic Trauma Clinic 14 days post-operation for evaluation. 
Call ___ to schedule appointment upon discharge.

Please follow up with your primary care doctor regarding this 
admission within ___ weeks and for and any new 
medications/refills.

Physical Therapy:
touch down weight bearing right lower extremity
range of motion as tolerated right lower extremity
Treatments Frequency:
non-operative treatment
 
Followup Instructions:
___